US08247556B2
Preparation LX—N-(2-chloro-5-nitrophenyl)pivalamide
2-Chloro-5-nitroaniline (3.36 g) was dissolved in CH2Cl2 (45 mL) at 0° C. and pivaloyl chloride (1.99 mL) was added dropwise followed by TEA (4.06 mL). The mixture was stirred at RT for 2 days and a solid precipitated. Solid was filtered, rinsed with MeOH. Mother liquid was evaporated, solid was filtered on silica pad and solvent evaporated. Combined white solids were dried.

reactant | 2-Chloro-5-nitroaniline | 3.36 g | ClC1=C(N)C=C(C=C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | pivaloyl chloride | 1.99 mL | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | CH2Cl2 | 45 mL | C(Cl)Cl | CH2Cl2
product | N-(2-chloro-5-nitrophenyl)pivalamide | ClC1=C(C=C(C=C1)[N+](=O)[O-])NC(C(C)(C)C)=O | C11H13ClN2O3
